US05932601
A methanol solution of sodium methoxide (28%, 3.4 g) was added dropwise to an ice-cooled solution of trimethyl phosphonoacetate (3.2 g) and 3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)benzaldehyde (5.1 g) in N,N-dimethylformamide (DMF) (30 ml). The mixture was stirred for 5 minutes under ice-cooling, then for 4 hours at room temperature. The reaction mixture was poured into ice-water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated to yield methyl 3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamate (5.5 g, 91%), which was recrystallized from chloroform-ether to give colorless prisms, m.p.125-126° C.

reactant | methanol | CO | CH4O
reactant | sodium methoxide | 3.4 g | C[O-].[Na+]
reactant | trimethyl phosphonoacetate | 3.2 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | 3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)benzaldehyde | 5.1 g | C(C)OC=1C=C(C=O)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C19H17NO4
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 3-ethoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamate | 5.5 g, 91% | C(C)OC=1C=C(C=CC(=O)OC)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C22H21NO5
